US05306726
B. 5-Amino-2-(5-methyl-2-phenyl-4-oxazolyl)methylbenzofuran
alpha-(5-Methyl-2-phenyl-4-oxazolyl)-5-nitro-2-benzofuranmethanol (57 g, 0.16 mol) was dissolved in trifluoroacetic acid (350 ml), while cooling to 0° C. Triethylsilane (64 ml, 0.40 mol) was added. The solution was stirred 1.5 hours at 0° C. and overnight at room temperature. The solution was concentrated to near-dryness and the residue dissolved in ethyl acetate (750 ml). This solution was washed with water. The precipitate formed during the wash was collected. The organic solution was washed with satured sodium bicarbonate, during which more precipitate formed and was collected. The ethyl acetate phase of the filtrate was washed again with saturated sodium bicarbonate, then with brine, dried over sodium sulfate and concentrated. The residue was triturated with isopropyl ether and a solid was obtained. The combined solids obtained hereabove (51 g, 0.15 mol) were placed in a Parr bottle together with platinum oxide (3 g) and ethyl acetate (1.5 1) and hydrogenated at 40 psi for 1.25 hours. The catalyst was filtered through Celite, and after washing the filtering pad with more ethyl acetate, the solvent was removed in vacuo to give a yellow residue which was triturated with isopropyl ether (200 ml). The pale yellow solid was collected (37.1 g, mp 161.5°-162.5° C).

reactant | alpha-(5-Methyl-2-phenyl-4-oxazolyl)-5-nitro-2-benzofuranmethanol | 0.16 mol, 57 g | CC1=C(N=C(O1)C1=CC=CC=C1)C(O)C=1OC=C2C1C=CC(=C2)[N+](=O)[O-] | C19H14N2O5
reactant | Triethylsilane | 0.40 mol, 64 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | trifluoroacetic acid | 350 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | platinum oxide | 3 g | [Pt]=O
product | 5-Amino-2-(5-methyl-2-phenyl-4-oxazolyl)methylbenzofuran | NC=1C=CC2=C(C=C(O2)CC=2N=C(OC2C)C2=CC=CC=C2)C1 | C19H16N2O2
